US06803384B2
An aqueous solution of sodium hydroxide (1 M; 0.5 mL, 0.5 mmol) was added to a solution of N-[2-chloro-4-[[[[3-[(thiophene-3-carbonyl)oxy]phenyl]methyl]amino]carbonyl]-6-methylbenzoyl]-3-[(thiophene-3-carbonyl)amino]-L-alanine, methyl ester (160 mg, 0.25 mmol) in methanol (2 mL). The solution was allowed to stir overnight and then concentrated. The residue was purified by HPLC and lyophilized to give N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]-6-methylbenzoyl]-3-[(thiophene-3-carbonyl)amino]-L-alanine (76.5 mg, 59%) as a white solid.

reactant | sodium hydroxide | 0.5 mmol, 1 M, 0.5 mL | [OH-].[Na+]
reactant | N-[2-chloro-4-[[[[3-[(thiophene-3-carbonyl)oxy]phenyl]methyl]amino]carbonyl]-6-methylbenzoyl]-3-[(thiophene-3-carbonyl)amino]-L-alanine, methyl ester | 0.25 mmol, 160 mg | ClC1=C(C(=O)N[C@@H](CNC(=O)C2=CSC=C2)C(=O)OC)C(=CC(=C1)C(=O)NCC1=CC(=CC=C1)OC(=O)C1=CSC=C1)C | C30H26ClN3O7S2
solvent | methanol | 2 mL | CO | CH4O
product | N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]-6-methylbenzoyl]-3-[(thiophene-3-carbonyl)amino]-L-alanine | 76.5 mg, 59% | ClC1=C(C(=O)N[C@@H](CNC(=O)C2=CSC=C2)C(=O)O)C(=CC(=C1)C(=O)NCC1=CC(=CC=C1)O)C | C24H22ClN3O6S
